US08012966B2
2-[4-(4-Chloro-2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(4-chloro-2-fluoro-phenyl)-1,3-dihydro-indol-2-one (prepared according to WO2002055517) as starting materials to give 2-[4-(4-chloro-2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (45 mg, 44.2%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | 4-(4-chloro-2-fluoro-phenyl)-1,3-dihydro-indol-2-one | ClC1=CC(=C(C=C1)C1=C2CC(NC2=CC=C1)=O)F | C14H9ClFNO
product | 2-[4-(4-chloro-2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 45 mg, 44.2% | ClC1=CC(=C(C=C1)C1=C2C(C(NC2=CC=C1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCCC1)=O)C)F | C30H30ClFN4O2
